US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1, 1 ′-biphenyl-3-yl)-4-methylbenzamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide and 4-methylbenzoic acid using method B. NMR; ™H CDCl3 7.87,(1H, s), 7.83,(2H, d), 7.78,(2H, d), 7.60,(1H, dd), 7.49,(1H, d), 7.41,(2H, d), 7.29-7.26,(3H, m), 6.29,(1H, t), 3.35,(2H, m), 2.42,(3H, s), 2.23,(3H, s), 1.09,(1H, m), 0.58,(2H, m), 0.30,(2H, m). LCMS: retention time 3.63 min, MH+399.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 4-methylbenzoic acid | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1, 1 ′-biphenyl-3-yl)-4-methylbenzamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC=C(C=C1)C)=O | C26H26N2O2
